US04599344
1-Heptyl-2-[3-(4-((methylsulfonyl)amino)phenyl)propyl]-3-oxo-1-azoniabicyclo[2.2.2]octane bromide
In a manner similar to Example II, Method A, react N-[4-(3-(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]-methanesulfonamide with heptyl bromide to yield the title compound.

reactant | N-[4-(3-(3-oxo-1-azabicyclo[2.2.2]oct-2-yl)propyl)phenyl]-methanesulfonamide | O=C1C(N2CCC1CC2)CCCC2=CC=C(C=C2)NS(=O)(=O)C | C17H24N2O3S
reactant | heptyl bromide | C(CCCCCC)Br | C7H15Br
product | 1-Heptyl-2-[3-(4-((methylsulfonyl)amino)phenyl)propyl]-3-oxo-1-azoniabicyclo[2.2.2]octane bromide | [Br-].C(CCCCCC)[N+]12C(C(C(CC1)CC2)=O)CCCC2=CC=C(C=C2)NS(=O)(=O)C | InChI=1S/C24H39N2O3S.BrH/c1-3-4-5-6-7-17-26-18-15-21(16-19-26)24(27)23(26)10-8-9-20-11-13-22(14-12-20)25-30(2,28)29;/h11-14,21,23,25H,3-10,15-19H2,1-2H3;1H/q+1;/p-1
